US08541411B2
Preparation of 2-methyl-N-(methylsulfonyl)-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carboxamide
To the mixture of 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carboxylic acid, prepared as described in Example 20 (100 mg, 0.249 mmol) in N,N-Dimethylformamide (DMF) (2 mL) in a 20 mL vial was added EDC (57.3 mg, 0.299 mmol), methane sulfonamide (47.4 mg, 0.498 mmol) and DMAP (21.30 mg, 0.174 mmol). The mixture was stirred at 60° C. and monitored by LC/MS. After stirring for 5 days the DMF was removed in-vacuo and the remaining residue was dissolved in 2 mL of DMSO and purified by reverse phase chromatography with 2 injections eluting with a 27% to 57% AcCN/H2O gradient over 12 minutes. The fractions containing the desired compound, as determined by LC/MS, were combined and concentrated in-vacuo to provide the desired compound (47 mg, 0.097 mmol, 39.0% yield) as bright yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.52 (s, 3H), 3.12 (t, 4H), 3.50 (s, 3H), 3.73 (t, 4H), 6.15 (s, 2H), 6.38 (d, 1H), 7.35 (t, aH), 7.50 (s. 1H), 7.51-7.75 (m, 2H), 7.88 (d, 1H), 8.05 (d, 1H), 8.25 (2, 1H), 8.35 (s, 1H), 12.8 (br. s, 1H); LC-MS: m/e=480 [M+1]+

reactant | 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carboxylic acid | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2C(=O)O)N2CCOCC2 | C24H23N3O3
reactant | EDC | 0.299 mmol, 57.3 mg
reactant | methane sulfonamide | 0.498 mmol, 47.4 mg | CS(=O)(=O)N | CH5NO2S
solvent | N,N-Dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | DMAP | 0.174 mmol, 21.30 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-methyl-N-(methylsulfonyl)-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carboxamide | 0.097 mmol, 47 mg, 39.0% yield | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2C(=O)NS(=O)(=O)C)N2CCOCC2 | C25H26N4O4S
